US07557112B2
A mixture of 582 mg of 2-(4-chloro-2,5-difluorophenyl)-4-(2,3,6,7-tetrahydro-1H-azepine-1-yl)thieno[3,2-d]pyrimidine, 235 mg of N-methylmorpholine-N-oxide, 1.30 ml of 2.5 w % osmium tetroxide-tert-butanol solution and 10 ml of THF-water (4:1) was stirred for 20 hours at room temperature. After 50 ml of water was added to the reaction mixture and extracted with EtOAc, the resultant washed with a saturated saline solution. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. the obtained residue was purified by silica gel column chromatography (chloroform-MeOH) to give a foam-like substance. After the obtained foam-like substance was dissolved in 20 ml of THF and 2 ml of 4M HCl-EtOAc solution was added, it was concentrated under reduced pressure to give a solid. This solid was recrystallized from EtOH-ether to give 618 mg of (4RS,5SR)-1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4,5-diol hydrochloride.

reactant | 2-(4-chloro-2,5-difluorophenyl)-4-(2,3,6,7-tetrahydro-1H-azepine-1-yl)thieno[3,2-d]pyrimidine | 582 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCC=CCC2)F | C18H14ClF2N3S
reactant | N-methylmorpholine-N-oxide | 235 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | THF water | 10 ml | C1CCOC1.O
reactant | HCl EtOAc | 4M, 2 ml | Cl.CCOC(=O)C
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | osmium tetroxide tert-butanol | [Os](=O)(=O)(=O)=O.C(C)(C)(C)O
solvent | water | 50 ml | O | H2O
product | (4RS,5SR)-1-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]azepane-4,5-diol hydrochloride | 618 mg | Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCC(C(CC2)O)O)F | InChI=1S/C18H16ClF2N3O2S.ClH/c19-10-8-11(20)9(7-12(10)21)17-22-13-3-6-27-16(13)18(23-17)24-4-1-14(25)15(26)2-5-24;/h3,6-8,14-15,25-26H,1-2,4-5H2;1H
